US04710502
A mixture of 100.0 g of 1,10-dibromodecane and 50.0 g of 1H-isoindole-1,3(2H)-dione, potassium salt in 500 ml of N,N-dimethylformamide was stirred and heated on a steam bath for eight hours. The reaction mixture was clarified while hot with activated charcoal, then filtered. The material on the filter was washed with 100 ml of N,N-dimethylformamide. The filtrate and wash were combined and taken to dryness in vacuo. The residue was triturated with 100 ml of hexane. The insoluble product was collected, washed with 50 ml of hexane, then air dried and gave 81.0 g of 2-(10-bromodecyl)-1H-isoindole-1,3(2H)-dione.

reactant | 1,10-dibromodecane | 100.0 g | BrCCCCCCCCCCBr | C10H20Br2
reactant | 1H-isoindole-1,3(2H)-dione | 50.0 g | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | potassium | [K] | K
reactant | charcoal | C | CH4
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2-(10-bromodecyl)-1H-isoindole-1,3(2H)-dione | 81.0 g | BrCCCCCCCCCCN1C(C2=CC=CC=C2C1=O)=O | C18H24BrNO2
